US08076345B2
A) (S)-2-(4-(2-(tert-Butyldimethylsilyloxy)-1-(2-methylpyrimidin-5-yl)ethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-chlorobenzonitrile
A reaction mixture of 5-chloro-2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile (150 mg, 0.49 mmol) and (S)-2-(tert-butyldimethylsilyloxy)-1-(2-methylpyrimidin-5-yl)ethanamine (144 mg, 0.54 mmol) in acetonitrile (2 mL) and N,N-diisopropylethylamine (0.5 mL, 3 mmol) was subjected to microwave irradiation at 185° C. for 3.5 h. The reaction mixture was concentrated and the residue was purified by semi-preparative HPLC to yield the product as a yellow solid.

reactant | 5-chloro-2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 0.49 mmol, 150 mg | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H10Cl2N4
reactant | (S)-2-(tert-butyldimethylsilyloxy)-1-(2-methylpyrimidin-5-yl)ethanamine | 0.54 mmol, 144 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](N)C=1C=NC(=NC1)C | C13H25N3OSi
reactant | N,N-diisopropylethylamine | 3 mmol, 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (S)-2-(4-(2-(tert-Butyldimethylsilyloxy)-1-(2-methylpyrimidin-5-yl)ethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-chlorobenzonitrile | [Si](C)(C)(C(C)(C)C)OC[C@H](C=1C=NC(=NC1)C)NC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)Cl | C27H34ClN7OSi
